US09227976B2
Step 2: 1-(5-amino-1-methyl-3-phenyl-pyrazol-4-yl)ethanone
A mixture of N-(1-methyl-3-phenyl-4-((trimethylsilyl)ethynyl)-1H-pyrazol-5-yl)acetamide (2.3 g, 7.4 mmol), ethanol (20 mL) and 25% aq. NaOH solution (20 mL) was heated with stirring at 90° C. for 6 h and cooled to room temperature. The reaction mixture was diluted with ethyl acetate and water. The organic phase was washed with water and brine, dried (phase separator cartridge) and concentrated in vacuo. The residue was purified using chromatography (silica gel, gradient 0 to 40% ethyl acetate/CH2Cl2), followed by trituration in diethyl ether to provide the title compound as a white solid (724 mg).

reactant | N-(1-methyl-3-phenyl-4-((trimethylsilyl)ethynyl)-1H-pyrazol-5-yl)acetamide | 7.4 mmol, 2.3 g | CN1N=C(C(=C1NC(C)=O)C#C[Si](C)(C)C)C1=CC=CC=C1 | C17H21N3OSi
reactant | ethanol | 20 mL | C(C)O | C2H6O
reactant | NaOH | 20 mL | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-(5-amino-1-methyl-3-phenyl-pyrazol-4-yl)ethanone | 724 mg | NC1=C(C(=NN1C)C1=CC=CC=C1)C(C)=O | C12H13N3O
